US08859615B2
1-(1-benzyl-4-(((4R,5R)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-1,2,3-triazol-5-yl)propan-1-ol
To a solution of 1-benzyl-4-(((4R,5R)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-1,2,3-triazole (11 mg, 0.029 mmol) in THF (0.3 mL) at −78° C. was added n-butyllithium (21 μL, 1.6M) to produce a deep red solution. After 5 minutes, propanal (2.3 μL, 1.1 eq) was added and the mixture was warmed to room temperature. After standard workup, the title compound was isolated by silica gel chromatography (7 mg, 54%). 1H NMR (400 MHz, CDCl3) δ 7.35 (m, 3H), 7.30 (m, 2H), 5.35 (d, 7.6 Hz, 1H), 5.32 (d, 7.6 Hz, 1H), 4.52 (m, 1H), 3.86 (m, 1H), 3.64 (m, 1H), 3.03 (dd, 3.6 Hz, 16.4 Hz, 1H) 2.96 (dd, 6.8 Hz, 16.4 Hz, 1H), 1.55-1.17 (m, 12H), 1.27 (s, 3H), 1.25 (s, 3H), 1.00 (t, 7.3 Hz, 3H), 0.88 (t, 5.2 Hz, 3H). LRMS (APCI+) found 430.6, [M]+.

reactant | 1-benzyl-4-(((4R,5R)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-1,2,3-triazole | 0.029 mmol, 11 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C[C@H]1OC(O[C@@H]1CCCCCCC)(C)C | C22H33N3O2
reactant | n-butyllithium | 1.6M, 21 μL | C(CCC)[Li]
reactant | propanal | 2.3 μL, 1.1 eq | C(CC)=O | C3H6O
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | 1-(1-benzyl-4-(((4R,5R)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-1,2,3-triazol-5-yl)propan-1-ol | C(C1=CC=CC=C1)N1N=NC(=C1C(CC)O)C[C@H]1OC(O[C@@H]1CCCCCCC)(C)C | C25H39N3O3
